***************************************************************												
*	Infineon	Technologies	AG									
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX				
*	VALID	UP	TO	10	GHZ							
*	>>>	BFP420F	<<<								
*	(C)	2011	Infineon	Technologies	AG							
*	Version 2.0	August	2011								
***************************************************************		
* - Please use the global SPICE parameter TEMP to set the junction
*   temperature of this device in your circuit to get correct DC 
*   simulation results. 
* - TEMP is calculated by TEMP=TA+P*(RthJS+RthSA). The junction 
*   temperature TEMP is the sum of the ambient temperature TA and 
*   the increment of temperature caused by the dissipated power 
*   P=VCE*IC (IC collector current, VCE collector-emitter voltage). 
* - RthJS is the thermal resistance between the junction and the 
*   soldering point. RthJS for this device is 240 K/W. RthSA is the 
*   thermal resistance of the PCB, from the soldering point to the 
*   ambient. For determination of RthSA please refer to Infineon's 
*   Application Note "Thermal Resistance Calculation" AN077.
* - The model has been verified in the junction temperature range
*   -25°C to +125°C.
* - TNOM=25 °C is the nominal ambient temperature.
*   Please do not change this value.
****************************************************************			
*BFP420F C B E1 E2 
.SUBCKT BFP420F 1 2 3 4

CBEPAR 22 33 6.84421E-014
CBCPAR 22 11 1.04791E-013
CCEPAR 11 33 1.08422E-014
LB    22 20 5.76616E-010
LE   33 30 2.74191E-010
LC   11 10  5.5524E-010
CBEPCK 20 30  4.64908E-014
CBCPCK 20 10  1.764E-015
CCEPCK 10 30  3.98512E-014
LBX    20 2 8.07664E-011
LEX   30 35 4.936E-011
LCX   10 1  7.26419E-011

RS 55 30 13.05
RE1 35 3 1E-03
RE2 35 4 1E-03

Diode_sub 55 11 M_Diode_sub

Q1 11 22 33 55 M_BFP420F

.MODEL M_Diode_sub D(
+	IS	=	4.356E-015				
+	N	=	1.02			
+	RS	=	0.1			
+	CJO	=	4E-014)			

.MODEL 	M_BFP420F  	NPN(										
+	IS	=	3.753E-017									
+	BF	=	127.8									
+	NF	=	0.9969									
+	VAF	=	59.18									
+	IKF	=	0.6604									
+	ISE	=	2.064E-013									
+	NE	=	2.593									
+	BR	=	13.61		
+	NR	=	1.009		
+	VAR	=	2.685	
+	IKR	=	0.007013		
+	ISC	=	3.49E-016		
+	NC	=	1.5		
+	RB	=	7.236		
+	IRB	=	0		
+	RBM	=	1.521	
+	RE	=	0.3062		
+	RC	=	2.152	
+	XTB	=	0.1187		
+	EG	=	1.11		
+	XTI	=	4.162		
+	CJE	=	5.62122E-013		
+	VJE	=	0.489194		
+	MJE	=	0.2565		
+	TF	=	4.49302E-012		
+	XTF	=	6.24451		
+	VTF	=	10.658		
+	ITF	=	0.543638		
+	PTF	=	0		
+	CJC	=	1.2273E-013		
+	VJC	=	0.8453		
+	MJC	=	0.6803		
+	XCJC	=	0.7		
+	TR	=	4.7E-009
+	CJS	=	4.75722E-013		
+	MJS	=	1			
+	VJS	=	0.532348 		
+	FC	=	0.4148		
+	KF	=	4.677E-011		
+	AF	=	1.966)			
***************************************************************					
				
.ENDS BFP420F
